US04052455
Addition of 50% sodium hydroxide (4.0 g., 0.05 mole) to a solution of 4-aminobenzamidine hydrochloride (0.5 mole) in 10 ml. of water affords 4-aminobenzamidine free base. Acetone (50 ml.) is added to the liberated free base and the mixture cooled to 5° C. 4-Nitrostyrylsulfonyl chloride is added to the mixture in a period of 5 min. while maintaining a temperature below 15° C. The mixture is stirred for 10 min., the reaction mixture concentrated under reduced pressure provides a residue which diluted with 100 ml. of water and neutralized with 3N hydrochloric acid affords a pale yellow solid precipitate. The precipitate is collected, washed thoroughly with water and then triturated first with isopropanol and then with ether to yield 7.3 g. (84%) of N-(4-NITROSTYRYLSULFONYL)-4-AMINOBENZAMIDINE, m.p. 188°-189° C.

reactant | sodium hydroxide | 0.05 mole, 4.0 g | [OH-].[Na+]
reactant | 4-aminobenzamidine hydrochloride | 0.5 mole | Cl.NC1=CC=C(C(=N)N)C=C1
solvent | water | O | H2O
product | 4-aminobenzamidine | NC1=CC=C(C(=N)N)C=C1 | C7H9N3
